US07323475B2
1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid (2-acetylamino-ethyl)-amide
A mixture of 56 mg (0.2 mmol) of 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester from example B-1 c), 227 mg (2 mmol) of N-(2-amino-ethyl)-acetamide and 0.8 ml of absolute ethanol was stirred at ambient temperature for 3 days. Then the solvent was evaporated in vacuo, the residue suspended in 3 ml of water, and the pH of the mixture was adjusted 2 to 3 by the addition of aqueous 1N HCl. The mixture was extracted with 2×25 ml of ethyl acetate. The combined organic phases were dried over sodium sulfate and evaporated in vacuo to give a yellowish solid. 64 mg of the title compound were obtained; MS-(+)-ion: M+1=308.1.

reactant | 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 0.2 mmol, 56 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClNO3
reactant | N-(2-amino-ethyl)-acetamide | 2 mmol, 227 mg | NCCNC(C)=O | C4H10N2O
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
product | 1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid (2-acetylamino-ethyl)-amide | 64 mg | C(C)(=O)NCCNC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClN3O3
